US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-imidazol-4-yl)thiazole-4-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile (0.3 g, 1.07 mmol), 2-(1H-imidazol-4-yl)thiazole-4-carboxylic acid (0.25 g, 1.29 mmol), HOBt (0.22 g, 1.61 mmol), DIPEA (0.56 mL, 3.23 mmol) and EDCI (0.31 g, 1.61 mmol) in 10 mL DMF as solvent using the method described in Example 34(d). Yield 65 mg. 1H NMR (400 MHz; CDCl3): δ 1.27 (d, 3H), 4.40 (m, 2H), 4.60 (m, 1H), 6.80 (dd, 1H), 7.24 (d, 1H), 7.30 (m, 1H), 7.56 (m, 2H), 7.70 (d, 1H), 8.02 (s, 1H), 8.08 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile | 1.07 mmol, 0.3 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)F)C | C13H12ClFN4
reactant | 2-(1H-imidazol-4-yl)thiazole-4-carboxylic acid | 1.29 mmol, 0.25 g | N1C=NC(=C1)C=1SC=C(N1)C(=O)O | C7H5N3O2S
reactant | HOBt | 1.61 mmol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.23 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.61 mmol, 0.31 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-imidazol-4-yl)thiazole-4-carboxamide | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C=1N=CNC1)F | C20H15ClFN7OS
